US05077402
A) 1-(4-Fluorophenyl)-2-dimethylamino-butan-1-one
240 g (0.98 mol) of 1-(4-fluorophenyl)-2-bromobutan-1-one (prepared by bromination of 4-fluorobutyrophenone by the method described in EP-A-3,002) are dissolved in 250 ml of diethyl ether. This solution is slowly added dropwise to a mixture of 265 g (5.87 mol) of dimethylamine in 1250 ml of diethyl ether at 0°. After the mixture has been stirred at 0° for 12 hours, the excess dimethylamine is removed at room temperature by blowing through N2 and the suspension is poured onto water. The ether phase is washed with water and dried over MgSO4. After filtration and evaporation of the solution, 202.8 g of crude product remain as a colourless oil, which is used without further purification for the subsequent reaction.

reactant | 1-(4-fluorophenyl)-2-bromobutan-1-one | 0.98 mol, 240 g | FC1=CC=C(C=C1)C(C(CC)Br)=O | C10H10BrFO
reactant | 4-fluorobutyrophenone | FCCCC(=O)C1=CC=CC=C1 | C10H11FO
reactant | dimethylamine | 5.87 mol, 265 g | CNC | C2H7N
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1250 ml | C(C)OCC | C4H10O
product | 1-(4-Fluorophenyl)-2-dimethylamino-butan-1-one | FC1=CC=C(C=C1)C(C(CC)N(C)C)=O | C12H16FNO
